US07547691B2
(C). Preparation of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid
An aqueous Na2CO3 solution (2 M, 500 mL) is added dropwise to a stirred solution of (4-carboxy-benzo[b]thiophen-2-yl)boronic acid (56 g, 0.25 mol) and 2,4,6-trichloro-pyrimidine (42.1 g, 0.230 mol) in ethyleneglycol dimethyl ether (620 mL) at room temperature under nitrogen atmosphere. Upon the completion of addition, PdCl2(PPh3)2 (5.31 g, 3% mol) is added in one portion, then the reaction mixture is heated at 100° C. overnight. The mixture is cooled to 10° C., then 37% HCl (150 mL) is added in portions to form a suspension. After filtration and washing with water (300 mL×3) the solid is dried under vacuum. Then the solid is suspended in 1 L of dichloromethane/ethanol (10:1) and stirred overnight. After another round of filtration and drying, the first crop of title compound (28.0 g, 38% yield) is obtained. Mother liquor is concentrated and the residue is suspended in acetone (1 mL) and stirred overnight. After filtration, the solid is re-suspended in 200 mL of dichloromethane/ethanol (ethanol) (3:1) and stirred for 2 hours. Additional 5 g of the title compound is obtained after filtration and drying. Overall yield is 44%.

reactant | Na2CO3 | 2 M, 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (4-carboxy-benzo[b]thiophen-2-yl)boronic acid | 0.25 mol, 56 g | C(=O)(O)C1=CC=CC=2SC(=CC21)B(O)O | C9H7BO4S
reactant | 2,4,6-trichloro-pyrimidine | 0.230 mol, 42.1 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | HCl | 150 mL | Cl | ClH
solvent | ethyleneglycol dimethyl ether | 620 mL | COCCOC | C4H10O2
catalyst | PdCl2(PPh3)2 | 5.31 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | 28.0 g, 38% yield | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)O)Cl | C13H6Cl2N2O2S
